US07279487B2
Step 9: Preparation of N-[4-fluoro-2-(methylsulfonyl)benzyl]-4-hydroxy-1-[2-(methylamino)ethyl]-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide
A solution of benzyl 2-[3-({[4-fluoro-2-(methylsulfonyl)benzyl]amino}carbonyl)-4-hydroxy-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl(methyl)carbamate (0.55 g, 0.94 mmol) in MeOH (10 mL) in a pressure tube was cooled to −78 degrees C. and saturated with HCl gas. The volume in the flask visibly increased. The reaction was allowed to warm to room temperature overnight, then cooled to −78 degrees C. and vented. The reaction was transferred to a round bottom flask and the solvents removed under vacuum. The reaction was suspended in toluene and evaporated to give the product as a solid.

reactant | benzyl 2-[3-({[4-fluoro-2-(methylsulfonyl)benzyl]amino}carbonyl)-4-hydroxy-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl(methyl)carbamate | 0.94 mmol, 0.55 g | FC1=CC(=C(CNC(=O)C=2C(N(C3=CC=CN=C3C2O)CCN(C(OCC2=CC=CC=C2)=O)C)=O)C=C1)S(=O)(=O)C | C28H27FN4O7S
reactant | HCl | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | N-[4-fluoro-2-(methylsulfonyl)benzyl]-4-hydroxy-1-[2-(methylamino)ethyl]-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide | FC1=CC(=C(CNC(=O)C=2C(N(C3=CC=CN=C3C2O)CCNC)=O)C=C1)S(=O)(=O)C | C20H21FN4O5S
